US05239113
Ethyl 3-[[4-[[4-(aminoiminomethyl)-2-ethylphenyl]amino]-1,4-dioxobutyl]amino]-4-pentenoate
The title compound was prepared in the manner of Example 1 substituting 4-[[4-(aminoiminomethyl)-2-ethylphenyl]amino]-4-oxobutanoic acid hydrochloride for 4-[[4-(aminoiminomethyl)phenyl]amino]-4-oxobutanoic acid hydrochloride and using ethyl 3-amino-4-pentenoate. The product was purified by reverse phase HPLC using the conditions of Example 1 to afford the title compound. The product was verified by 13C NMR (CD3OD) δ 12.8, 13.1, 23.7, 30.5, 31.3, 38.9, 48.4, 60.4, 114.5, 124.6, 125.2, 125.6, 128.1, 136.8, 138.0, 140.9, 166.8, 171.0, 171.1, 172.5; Chemical Ionization Mass Spectrometry (MH+)=389.

reactant | 4-[[4-(aminoiminomethyl)-2-ethylphenyl]amino]-4-oxobutanoic acid hydrochloride | Cl.NN=CC1=CC(=C(C=C1)NC(CCC(=O)O)=O)CC
reactant | 4-[[4-(aminoiminomethyl)phenyl]amino]-4-oxobutanoic acid hydrochloride | Cl.NN=CC1=CC=C(C=C1)NC(CCC(=O)O)=O
reactant | ethyl 3-amino-4-pentenoate | NC(CC(=O)OCC)C=C | C7H13NO2
product | Ethyl 3-[[4-[[4-(aminoiminomethyl)-2-ethylphenyl]amino]-1,4-dioxobutyl]amino]-4-pentenoate | NN=CC1=CC(=C(C=C1)NC(CCC(=O)NC(CC(=O)OCC)C=C)=O)CC | C20H28N4O4
